US05389633
Production of 6-(2,2-dimethyl-4-sulfamoyl-1-butoxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine
Using 4-hydroxy-3,3-dimethyl-1-butanesulfonamide and 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine, the same reaction was conducted as in Example 5 to produce the title compound. m.p. 214°-215° C.

reactant | 4-hydroxy-3,3-dimethyl-1-butanesulfonamide | OCC(CCS(=O)(=O)N)(C)C | C6H15NO3S
reactant | 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | ClC=1C(=CC=2N(N1)N=CN2)C | C6H5ClN4
product | 6-(2,2-dimethyl-4-sulfamoyl-1-butoxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | CC(COC=1C(=CC=2N(N1)N=CN2)C)(CCS(N)(=O)=O)C | C12H19N5O3S
